US07402680B2
1-Benzyl-3-(4-chloro-phenyl)-1,4,5,6,7,8-hexahydro-1,2,5-triaza-azulene
The title compound (0.068 g) was prepared as in Example 59, Steps D and E, starting with 3-(4-chloro-phenyl)-4,6,7,8-tetrahydro-1H-1,2,5-triaza-azulene-5-carboxylic acid tert-butyl ester (0.1 g), the isomer from Example 59, Step C. The reaction sequence also yielded 2-benzyl-3-(4-chloro-phenyl)-2,6,7,8-tetrahydro-4H-1,2,5-triaza-azulene-5-carboxylic acid tert-butyl ester. MS (ESI): exact mass calculated for C20H20ClN3, 337.13; found, m/z 338.2 [M+H]+. 1H NMR (500 MHz, CD3OD): 7.51-7.30 (m, 4H), 7.37-7.29 (m, 3H), 7.29-7.21 (m, 3H), 5.45 (s, 2H), 4.32 (s, 2H), 3.53-3.50 (m, 2H), 3.06-3.03 (m, 2H), 2.04-1.99 (m, 2H).

reactant | 3-(4-chloro-phenyl)-4,6,7,8-tetrahydro-1H-1,2,5-triaza-azulene-5-carboxylic acid tert-butyl ester | 0.1 g | C(C)(C)(C)OC(=O)N1CC=2C(=NNC2CCC1)C1=CC=C(C=C1)Cl | C18H22ClN3O2
reactant | 2-benzyl-3-(4-chloro-phenyl)-2,6,7,8-tetrahydro-4H-1,2,5-triaza-azulene-5-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=C(N(N=C2CCC1)CC1=CC=CC=C1)C1=CC=C(C=C1)Cl | C25H28ClN3O2
product | 1-Benzyl-3-(4-chloro-phenyl)-1,4,5,6,7,8-hexahydro-1,2,5-triaza-azulene | 0.068 g | C(C1=CC=CC=C1)N1N=C(C=2CNCCCC12)C1=CC=C(C=C1)Cl | C20H20ClN3
